US08076334B2
A solution of 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile (200 mg, 0.42 mmol), 4-N,N-dimethyaminopyridine (2.6 mg, 0.02 mmol) and succinic anhydride (47 mg, 0.47 mmol) in methylene chloride (2.53 mL) at 25° C. was treated with N,N-diisopropylethylamine (0.17 mL, 0.98 mmol). The reaction mixture was stirred at 25° C. for 3.5 h. At this time, the reaction mixture was poured onto a saturated aqueous ammonium chloride solution (100 mL) and was then extracted with a 90/10 methylene chloride/methanol solution (3×100 mL). The pH of the aqueous layer was brought to pH=2 with a few drops of a 2N aqueous hydrochloric acid solution and was then extracted with a 90/10 methylene chloride/methanol solution (1×100 mL). The combined organics were dried over sodium sulfate, filtered, rinsed and concentrated in vacuo. ISCO CombiFlash chromatography (12 g, 0.5-4% methanol/methylene chloride) followed by supercritical fluid chromatography (Daicel OJ column, 30% methanol) afforded succinic acid mono-{3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl}ester (57 mg, 24%) as a light tan solid. ES+-HRMS m/e calcd for C22H18N6O8Cl2 (M+H+) 565.0636, found 565.0633.

reactant | 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile | 0.42 mmol, 200 mg | ClC=1C=C(C=C(C1OC1=NN(C(C(=C1)C(C)C)=O)CO)Cl)N1N=C(C(NC1=O)=O)C#N | C18H14Cl2N6O5
reactant | succinic anhydride | 0.47 mmol, 47 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | N,N-diisopropylethylamine | 0.98 mmol, 0.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | methylene chloride | 2.53 mL | C(Cl)Cl | CH2Cl2
product | succinic acid mono-{3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl}ester | 57 mg, 24% | ClC1=C(OC2=NN(C(C(=C2)C(C)C)=O)COC(CCC(=O)O)=O)C(=CC(=C1)N1N=C(C(NC1=O)=O)C#N)Cl | C22H18Cl2N6O8
